US08304419B2
Step A: Ethyl 2-amino-3-oxobutanoate hydrochloride
Ethyl 2-amino-3-oxobutanoate hydrochloride was prepared as described in J. Med. Chem. 1996, 39, 957. LiHMDS (50 mL, 50 mmol, 1 M in THF) was slowly added to a solution of ethyl N-(diphenylmethylidene)glycinate in THF (62.5 mL) at −78° C. under N2. The yellow slurry was stirred for 45 min. and was then transferred via cannula to a solution of acetyl chloride (4.2 mL, 59 mmol) in THF (25 mL) at −78° C. Additional THF (125 mL) was added to the anion solution to facilitate transfer to the acetyl chloride solution. The reaction mixture was allowed to warm to RT and stirred for 4 h. The reaction was then quenched with 2 N HCl (57.5 mL). The THF was evaporated and the resultant aqueous solution was extracted with EtOAc (2×50 mL). The organic phases were discarded and the aqueous phase was concentrated in vacuo. The residue was treated with EtOH (75 mL) and filtered. The filtrate was concentrated in vacuo to give the title compound (9.6 g, >99%) as a light-yellow solid which was used in next step without purification.

reactant | LiHMDS | 50 mmol, 1 M, 50 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | ethyl N-(diphenylmethylidene)glycinate | C1(=CC=CC=C1)C(=NCC(=O)OCC)C1=CC=CC=C1 | C17H17NO2
reactant | acetyl chloride | 59 mmol, 4.2 mL | C(C)(=O)Cl | C2H3ClO
solvent | THF | 62.5 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 125 mL | C1CCOC1 | C4H8O
product | Ethyl 2-amino-3-oxobutanoate hydrochloride | 9.6 g, >99% | Cl.NC(C(=O)OCC)C(C)=O | InChI=1S/C6H11NO3.ClH/c1-3-10-6(9)5(7)4(2)8;/h5H,3,7H2,1-2H3;1H
